US06977312B2
25 g (91 mmol) of 1,8-dichloroanthraquinone and 65 g (1 mol) of Zn dust were suspended in 1 l of a 20% strength by weight aqueous ammonia solution and the mixture was refluxed for 3 hours. After cooling to room temperature, the solid was separated off via a Büchner funnel. The aqueous phase was extracted three times with 150 ml each time of dichloromethane; the solid was extracted a number of times with dichloromethane while being treated with ultrasound. The combined organic phases were dried over magnesium sulfate and freed of the solvent on a rotary evaporator. The solid, whitish yellow residue was suspended in 600 ml of propanol and 65 ml of 12M hydrochloric acid and the mixture was refluxed for three hours. The solvent was subsequently removed under reduced pressure, the residue was taken up in dichloromethane, the solution was washed with saturated sodium hydrogen carbonate solution and dried over magnesium sulfate. Removal of the solvent gave 1,8-dichloroanthracene as a yellow solid which was recrystallized from propanol.

reactant | 1,8-dichloroanthraquinone | 91 mmol, 25 g | ClC1=CC=CC=2C(C3=CC=CC(=C3C(C12)=O)Cl)=O | C14H6Cl2O2
reactant | ammonia | N | H3N
catalyst | Zn | 1 mol, 65 g | [Zn] | Zn
product | 1,8-dichloroanthracene | ClC1=CC=CC2=CC3=CC=CC(=C3C=C12)Cl | C14H8Cl2
